US06194195B1
41 mg of Fmoc-Asp(Ot-Bu)-OH was dissolved in 2 ml of methylene chloride, and the solution was cooled to 0° C. 78 mg of PyBOP, 20 mg of HOBt and 22 μl of NMM were added thereto in order and stirring was effected for 5 minutes, at 0° C. 2 ml of the methylene chloride solution containing 34 mg of H-Trp-OBzl (NO2) as obtained above was cooled to 0° C. and then added to the resulting reaction solution. Stirring was effected at 4° C. for 4 hours and at room temperature for 1 hour, the solvent was evaporated under reduced pressure, and the residue was purified with a silica gel column (manufactured by Merck Co., Kieselgel 60, 50 g, elution with chloroform:methanol=25:1), to obtain 53 mg of Fmoc-Asp(Ot-Bu)-Trp-OBzl (NO2). The obtained product was dissolved in 100 μl of DMF, 25 μl of piperidine was added. The mixture was then allowed to stand at room temperature for 10 minutes, and purified with a silica gel column (manufactured by Merck Co., Kieselgel 60, 50 g, elution with hexane:ethyl acetate=2:1), to obtain 1 mg of H-Asp(Ot-Bu)-Trp-OBzl (NO2).

reactant | Fmoc-Asp(Ot-Bu)-OH | 41 mg | N([C@@H](CC(OC(C)(C)C)=O)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C23H25NO6
reactant | PyBOP | 78 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | HOBt | 20 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 22 μl | CN1CCOCC1 | C5H11NO
reactant | H-Trp-OBzl | 34 mg | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1 | C18H18N2O2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | Fmoc-Asp(Ot-Bu)-Trp-OBzl | 53 mg | N([C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C41H41N3O7
